US07285558B2
3-{[7-isobutyl-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-2-yl]methyl}-1H-indole-5-carbonitrile
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 3-formyl-1H-indole-5-carbonitrile, followed by 1-methyl-1H-imidazole-2-carbaldehyde. Mass: 457.14 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 3-formyl-1H-indole-5-carbonitrile | C(=O)C1=CNC2=CC=C(C=C12)C#N | C10H6N2O
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | CN1C(=NC=C1)C=O | C5H6N2O
product | 3-{[7-isobutyl-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-2-yl]methyl}-1H-indole-5-carbonitrile | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2N(C=CN2)C)CC2=CNC1=CC=C(C=C21)C#N)=O)C)=O | C24H24N8O2
